Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fatigue

 
Major Surgical or Invasive Procedure:
L pleurex placement
PEG tube

 
History of Present Illness:
Mrs. ___ is a ___ year old woman with a history of HTN who 
presented with 2 weeks of fatigue and poor motivation with acute 
worsening today and sudden onset headache. About 2 weeks ago the 
family noted that the patient was very fatigued, and not 
herself. She didn't want to do anything and had difficulties 
going about her daily activities. The family did not note focal 
defecits at that time. The family does say that she only speaks 
in one word sentances, although what she does say is correct. 
She was however coughing a bit more than usual and getting SOB 
with walking which is not usual for her. She went to her PCP's 
office last week and they sent some blood work and were planning 
to check an echocardiogram.

The night prior to presentation the patient went out to a 
restaurant with her family, but she was too tired and weak to 
really participate, and she was so SOB that she could hardly 
walk to the restaurant. On the morning of presentation the 
patient was noted to be much worse than prior. She was extremely 
tired and weak and more sleepy than before. She had lots of 
difficulty showering and could not even dress herself, requiring 
a lot of
help. She went to lie down on the couch, and noted a sudden 
onset ___ headache which is persisted until time of evaluation.

On neurologic review of systems, the patient denies 
lightheadedness, or confusion. Denies difficulty with producing 
or comprehending speech (although she just uses 1 word sentances 
now) Denies loss of vision. Denies muscle weakness. Denies 
dysphagia. Denies loss of sensation. Denies bowel or bladder 
incontinence or retention.

On general review of systems, the patient denies fevers, rigors, 
Denies chest pain, endorses SOB with exertion x 2 weeks Denies 
nausea, vomiting, diarrhea, constipation, or abdominal pain. 
Denies dysuria

 
Past Medical History:
- HTN
- Recent R shoulder fracture in ___ s/p fixation (fracture
due to a fall)

 
Social History:
___
Family History:
Father - stroke ___. 
Mother - heart condition at a young age.

 
Physical Exam:
==============================================

Admission Physical Examination:
VS 96 75 114/66 16 96% 4L
General: NAD, lying in bed with eyes closed. 
Head: NC/AT, no conjunctival icterus, no oropharyngeal lesions 
Neck: Supple, no nuchal rigidity, no meningismus
Pulmonary: on NC
Abdomen: ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:

- Mental Status - 
Awake, alert, oriented x 3 although does not know exact date. 
Eyes closed but awake, sometimes answers questions posed to the 
family with 1 word answers. Moderately inattentive and 
perseverative when doing MOYB. Recalls ___ words at 5 minutes. 
Language intact with intact naming, repetition, and 
comphrehension. Evidence of L sided neglect.

- Cranial Nerves -
II. Equal and reactive pupils (XXmm to XXm). On fundoscopic 
exam,
optic disc margins were sharp. Visual acuity was ___ in both
eyes and visual fields were full to finger counting.  
III, IV, VI. Forced R gaze deviation, can get to midline with 
VORs but unable to cross midline at all
V. facial sensation intactk
VII. L facial droop
VIII. hearing was intact to finger rub bilaterally.  
IX, X. symmetric palate elevation and symmetric tongue 
protrusion with full movement.
XI. SCM and trapezius were of normal strength and volume.

- Motor -
Muscule bulk and tone were normal.
  Delt   Bic  Tri ECR Fext Fflx IP   Quad   Ham   TA   Gas
L  5      5    4+  4  4-   5-   5      5     4-   4-    5
R  4+*    4+*  4+* 5  5    5    5      5     5-   5     5
* pain limited after recent R shoulder fracture

- Sensation -
No sensation to light touch on the L arm

- DTRs -
 Bic    Tri   ___   Quad   Gastroc
L 3      3      3      2        2
R 3      3      3      2        2
R toe mute, L toe up

- Cerebellar -
FNF testing intact on the R, slow with mild dysmetria on the L 
but not out of proportion to weakness on the L side

- Gait -
deferred

==============================================

DISCHARGE PHYSICAL EXAMINATION:
VS:Tm 98 130s/60s ___ 97-100%O25L 
General: Ill-appearing, more alert (compared to prior exams) 
woman in NAD
HEENT: EOMI, sclera anicteric
Neck: supple 
Lungs: Exam limited to anterior fields. No wheezes, rhonchi or 
rales. 
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
Abdomen: Soft, tenderness at LUQ, non-distended, bowel sounds 
present.
GU: foley to gravity   
Ext: Pneumo boots in place. Warm, well perfused, 2+ pulses, no 
clubbing, cyanosis or edema  
Skin: Not visualized on exam on ___ but reported 
Buttocks/coccyx with red papular rash partially covered with 
dressing

 

==============================================
 
Pertinent Results:
========================================================

ADMISSION LABS:
___ 09:30PM BLOOD WBC-8.4 RBC-3.72* Hgb-11.1* Hct-34.6* 
MCV-93 MCH-29.8 MCHC-31.9 RDW-16.1* Plt ___
___ 09:30PM BLOOD Neuts-83.5* Lymphs-9.1* Monos-4.5 Eos-2.3 
Baso-0.6
___ 09:30PM BLOOD ___ PTT-26.3 ___
___ 09:30PM BLOOD Glucose-98 UreaN-27* Creat-0.9 Na-135 
K-3.9 Cl-104 HCO3-19* AnGap-16
___ 09:30PM BLOOD ALT-19 AST-27 AlkPhos-61 TotBili-0.4
___ 03:14AM BLOOD CK(CPK)-51
___ 07:58AM BLOOD LD(___)-453* CK(CPK)-49
___ 01:32AM BLOOD ALT-15 AST-20 AlkPhos-59 TotBili-0.6
___ 09:30PM BLOOD cTropnT-0.05*
___ 03:14AM BLOOD CK-MB-2 cTropnT-0.05*
___ 07:58AM BLOOD CK-MB-2 cTropnT-0.03*
___ 03:14AM BLOOD Calcium-8.9 Phos-3.3 Mg-2.2 Cholest-173
___ 03:14AM BLOOD %HbA1c-6.0* eAG-126*
___ 03:14AM BLOOD Triglyc-122 HDL-32 CHOL/HD-5.4 
LDLcalc-117
___ 07:58AM BLOOD TSH-1.8
___ 07:58AM BLOOD CEA-131* AFP-1.6
___ CA ___     <34 U/mL

========================================================

URINE: 
___ 02:35AM URINE Color-Yellow Appear-Clear Sp ___
___ 02:35AM URINE Blood-NEG Nitrite-POS Protein-TR 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-MOD
___ 02:35AM URINE RBC-1 WBC-34* Bacteri-MOD Yeast-NONE 
Epi-1

========================================================

MICROBIOLOGY:
URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
      GRAM POSITIVE BACTERIA.    10,000-100,000 ORGANISMS/ML.. 
                              SENSITIVITIES: MIC expressed in 
MCG/ML
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMIKACIN--------------   <=2 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------     8 I
TRIMETHOPRIM/SULFA----  =>16 R

========================================================

___ URINE CULTURES POSITIVE FOR YEAST

___ 2:19 pm PLEURAL FLUID      PLEURAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___: 
      Reported to and read back by ___ ___ ___ 
1:40PM. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    RARE GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


___ 10:31 am PLEURAL FLUID

   GRAM STAIN (Final ___: 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED. 


___ BLOOD CULTURES NEGATIVE

___ STOOL C. DIFF NEGATIVE

CYTOLOGY: 
___ PLEURAL FLUID
POSITIVE FOR MALIGNANT CELLS,
consistent with non-small cell carcinoma.
SPECIMEN

___ PLEURAL FLUID
Pleural fluid:
POSITIVE FOR MALIGNANT CELLS,
consistent with non-small cell carcinoma. (See note.)
Note: The tumor cells have similar morphologic features to the 
those seen in the patient's prior skin
biopsy ___.

___ PATHOLOGY SKIN BX

Skin, left upper chest (1A):
Metastatic carcinoma, most consistent with lung adenocarcinoma.
RESULTS: Positive for a p.G12C (c.34G>T) mutation in codon 12 of 
the KRAS gene
NO EGFR Mutations Detected

IMAGING:
MRI Head (___):
There is unchanged right frontal lobe hemorrhage with mild mass 
effect. There is heterogeneous enhancement in the region of the 
hemorrhage which could reflect an underlying mass. There is also 
a ring-enhancing lesion within the left centrum semiovale. 
Differential considerations would include metastasis or septic 
emboli.  An atypical infection not excluded. 
  Evolution of right MCA infarct. There is also a punctate focus 
of infarct in the posterior left frontal lobe. 

NCHCT (___)
1.  Mild increase in parenchymal hemorrhage in anterior right 
frontal lobe suggesting hemorrhage transformation of infarct but 
given mass-like appearance other etiologies including a mass are 
not excluded. 
2.  Newly apparent area of evolving infarction involving more 
extensive areas in the right middle cerebral artery territory 
notably in the right temporal lobe including very small foci of 
suspected hemorrhage. 
3.  Focal area of white matter disease in left frontal lobe, 
most often 
chronic small vessel ischemic disease, but given isolated 
finding, edema about a mass not excluded. 

CTA ___
IMPRESSION:  
  
1. No pulmonary embolism. 
2. Multifocal pneumonia with consolidation of the left lower 
lobe. 
3. Bilateral axillary and mediastinal lymphadenopathy as 
described above 
concerning for metastatic disease. 

___ ECHO
Conclusions  
No atrial septal defect is seen by 2D or color Doppler. Left 
ventricular wall thickness, cavity size, and global systolic 
function are normal (LVEF>55%). Due to suboptimal technical 
quality, a focal wall motion abnormality cannot be fully 
excluded. Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets are mildly thickened (?#). 
Mild to moderate (___) aortic regurgitation is seen. The mitral 
valve appears structurally normal with trivial mitral 
regurgitation. The pulmonary artery systolic pressure could not 
be determined. There is no pericardial effusion. 

IMPRESSION: Suboptimal image quality. Normal biventricular 
cavity sizes with preserved global biventricular systolic 
function. Mild-moderate aortic regurgitation. 

Compared with the prior study (images reviewed) of ___, 
the findings are similar (no saline contrast performed on the 
current study).   

___ CT HEAD
IMPRESSION:  
  
Expected evolution of the large infarction involving essentially 
the entire right middle cerebral artery territory. Expected 
evolution of blood products in the right frontal lobe. No 
evidence for new intracranial abnormalities. 
  
R SHOULDER XRAY
IMPRESSION:  
  
No acute abnormality or evidence of hardware related 
complication. 
  
___ HEAD CT
IMPRESSION:  
  
1. Continued evolution of right MCA infarction and right frontal 
lobe hematoma with unchanged mass effect and leftward shift of 
the midline structures. 

___
IMPRESSION:  
  
1. No significant interval change of the large right MCA infarct 
and right frontal hematoma. 
  
___ CXR
IMPRESSION:  
  
The Dobbhoff catheter that has been newly inserted is projecting 
over the 
middle parts of the stomach. Slightly increased lung volumes.  
No other 
relevant change. 

___ CXR
IMPRESSION:  
  
As compared to the previous radiograph, the lung volumes have 
decreased.  
There also is a slight increase in radiodensity of the 
pre-existing bilateral parenchymal opacities.  Unchanged 
atelectasis of the retrocardiac lung areas.  Minimal blunting of 
the left costophrenic sinus might be caused by a small left 
pleural effusion.  Unchanged position of the Dobbhoff catheter. 

___
CXR CHEST
IMPRESSION:  
  
As compared to the previous radiograph, the lung volumes have 
decreased.  
There also is a slight increase in radiodensity of the 
pre-existing bilateral parenchymal opacities.  Unchanged 
atelectasis of the retrocardiac lung areas.  
Minimal blunting of the left costophrenic sinus might be caused 
by a small left pleural effusion.  Unchanged position of the 
Dobbhoff catheter. 
  
___ CTA
IMPRESSION:  
1. No pulmonary embolus. 
2. Interval insertion of left chest tube, with trace residual 
effusion. 
Increased aeration of the left lower lobe. Patchy solid and 
ground-glass 
densities within the left lower and right middle lobes likely 
represent  
pneumonia. 
3. Small nodular densities at right lung base are more prominent 
than prior study, likely small consolidations. 
4. Interlobular and intralobular septal thickening and ground 
glass opacities, most prominently involving left lower lobe and 
right middle lobe, are minimally changed since ___, 
possibly persistent interstitial edema and inflammation though 
lymphangitic carcinomatosis could also be considered. Recommend 
CT following resolution of acute processes. 
5. Minimally changed mediastinal and hilar adenopathy. Worsened 
bilateral 
axillary lymphadenopathy, with a dominant left node now enlarged 
to 3 cm. 
  

___ CXR
Since the prior study there has been interval improvement in 
perihilar 
opacities most likely consistent with pulmonary edema 
improvement. Still 
present bibasal consolidations are noted.  Left pigtail catheter 
is in place. There is no pneumothorax. Cardiomediastinal 
silhouette is unchanged. Dobbhoff tube passes below the 
diaphragm with its tip not included in the field of view 

___ HEAD CT
IMPRESSION:  
  
There is no worsening of hemorrhage, mass effect or infarction 
in comparison to the previous examination. 

___ MR HEAD
IMPRESSION:  
  
1. Subacute infarct of the right proximal MCA involving the 
right cerebral 
hemisphere with hemorrhagic transformation, not significantly 
changed in 
appearance from CT on ___.  Given the extensive 
enhancement, 
associated metastasis or mass difficult to exclude but appears 
less likely. 
2.  Persistent right M1 thrombus/stenosis. 
3.  Small left frontal lobe possible metastasis with moderate 
surrounding 
edema, unchanged from MRI on ___. 

Discharge Labs:
==============

___ 09:50AM BLOOD WBC-9.8 RBC-3.48* Hgb-10.4* Hct-32.8* 
MCV-94 MCH-30.0 MCHC-31.8 RDW-18.3* Plt ___
___ 09:50AM BLOOD Neuts-81.0* Lymphs-6.4* Monos-4.1 
Eos-8.3* Baso-0.3
___ 09:50AM BLOOD Plt ___
___ 09:50AM BLOOD Glucose-129* UreaN-16 Creat-0.6 Na-135 
K-4.0 Cl-101 HCO3-23 AnGap-15
___ 09:50AM BLOOD ALT-20 AST-29 LD(LDH)-388* AlkPhos-84 
TotBili-0.3
___ 09:50AM BLOOD Albumin-2.8* Calcium-9.4 Phos-3.7 Mg-1.___ is a ___ year old woman with a history of 
hypertension who presented to the ED ___ with worsening fatigue 
and poor motivation for 2 weeks and acute onset headache. She 
was found to have a right MCA infarct and right frontal 
hemorrhage, with heterogeneous enhancement in the region of the 
hemorrhage possibly reflecting an underlying mass. Pan-CT 
remarkable for bilateral axillary lympadenopathy and bilateral 
hilar fullness. Physical exam also showed a skin lesion 
suspicion for maligniancy; Derm was consulted and pathology of 
the biopsy showed lung adenocarcinoma. 
  
# Right MCA infarct/right frontal hemorrhage:
Pt was initially admitted to the neurologic ICU for monitoring. 
Systolic blood pressure was maintained at less than 160. An EEG 
showed no epileptiform discharges, but she was later started on 
Keppra for seizure prophylaxis. As MRI showed possible mass in 
the area of the hemorrhage with ring-enhancing lesions also 
present in the left centrum semiovale, pt underwent a CT thorax/ 
abdomen/ pelvis to evaluate for a primary malignancy. CT was 
remarkable for bilateral axillary lympadenopathy and bilateral 
hilar fullness. Additionally, pt had a suspicious skin lesion 
that was biopsied by dermatology. Biopsy showed lung 
adenocarcinoma (see below). Following stabilization of 
neurological status, she was transferred to Medical Oncology for 
further management of metastatic lung cancer. Systolic blood 
pressures continued to be maintained at a goal of <160. Her home 
blood pressure medications were initially held and she was 
treated with IV hydralazine. She was later re-started on her 
home carvedilol, while her home HCTZ, lisinopril and amlodopine 
continued to be held. She continued to be closely followed by 
Neurology. An echo showed She was started on ASA. Home 
lovastatin was initially held, but then restarted during her 
hospital stay. She also received physical therapy.

Neuro-oncology was consulted. She initially had considerable 
cerebral edema, which improved during her hospital stay. 
Radiation Oncology was consulted, and whole head XRT was started 
on ___, and will continue while patient is in rehab. She 
will have follow up with Dr. ___ Neuro-onc on ___ at 1 ___.

# Metastatic lung adenocarcinoma: CT chest with b/l axillary and 
mediastinal lymphadenopathy; left upper chest skin lesion biopsy 
was consistent with metastatic adenocarcinoma of the lung, TTF-1 
and cytokeratin positive. MR head showed at least two 
ring-enhancing lesions suspicious for metastatic lesions and 
whole brain XRT was started ___ (see above). She was not 
started on treatment for her lung adenocarcinoma, but may be 
considered upon improvement in her functional status. She was 
seen by Palliative Care (see below).

# Pleural effusion/HCAP: On presentation, CXR showed a left 
pleural effusion. On ___, after pt reported pleuritic chest 
pain, a CTA was done showed a moderate left pleural effusion 
with consolidation of the left lower lobe. Interventional 
pulmonolgy was consulted and Patient underwent a L pleurex cath 
placement on ___. She subsequently developed fever and 
leukocytosis and was treated empirically for HCAP with 
vanc/cefepime for empirical treatment of HCAP. Pleural fluid 
culture showed rare growth staph, coag neg. Blood cultures were 
negative. The patient has follow up with pulmonolgy scheduled 
for ___ at 9:30 AM. 

# UTI: Urine culture at admission was positive for E. coli. 
Patient completed a course of IV ceftriaxone. A subsequent Urine 
Culture showed ___ yeast. She also had a presumed ___ 
infection of the buttocks (see below) that did not respond 
satisfactorily to topical treatment alone and she was therefore 
treated with PO fluconazole which was discontinued before 
discharge.

# Myoclonus: Patient had some non-rhythmic myoclonic (jerking) 
movements in the lower extremities. Reglan and morphine were 
discontinued. The myoclonic movement was limited to her right 
lower extremity on discharge. 

# R shoulder pain: Patient had a history of fall, with shoulder 
surgery in ___. She had intermittent shoulder pain, 
which was treated with a lidocaine patch in addition to oral 
pain medication. Xray was negative.

# ___ skin infection: Patient had a presumed rash consistent 
with ___ infection on the sacrum/buttocks and anogenital 
area. She was seen by Wound Care and treated with topical 
antifungals. She was also given PO fluconazole (see above) which 
she took until ___.

# Diarrhea: Patient had diarrhea/loose stools, but tested 
negative for c.diff. Banana flakes were added to her feeds. She 
continued to have loose stools but volume of stools 
significantly decreased. The rate of tube feeds was decreased by 
half on discharge to 22.5 mL/hr with a plan to increase feeds 
slowly q24 by 10 mL until goal of 45 mL/hr is reached. 

# Nutrition: Speech and swallow and nutrition were consulted 
throughout hospital stay. Pt initially was on a thick liquid 
diet, but after evaluation for aspiration risk by Speech and 
Swallow, she was made NPO and a NGT (then changed to Dobhoff)was 
placed and she received tube feeds. A G-tube was placed on 
___. She was kept on strict aspiration precautions. 

# Goals of Care: Numerous family meetings were held throughout 
___ hospital stay and the Patient's diagnosis and 
prognosis was discussed at length. The Medical Oncology, 
Neuro-Oncology, and Palliative Care held goals of care 
discussions on an ongoing basis with the Patient and her family. 
Patient was also seen by Social Work. Patient remained full code 
throughout hospital stay.

====================================================

# TRANSITIONAL ISSUES:
- Whole head XRT day 1 ___
- arrange f/u Thoracic Onc appt after discharge ___  
09:30a   ___ CLINIC )
-Will be discharged to rehab with Jevity at half goal rate d/t 
diarrhea. Instructions were written for advancement in tube 
feeds by 10mL/hr every day. 
 
1) Contact: Husband ___ (Home: ___ Work ___
2) PCP: ___ (Phone: ___ Fax: ___

===========================================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack

1. Dysphagia screening before any PO intake? (X) Yes [performed 
and documented by admitting resident] – () No

2. DVT Prophylaxis administered by the end of hospital day 2? 
(X) Yes - () No

3. Antithrombotic therapy administered by end of hospital day 2? 
() Yes - (X) No

4. LDL documented (required for all patients)? (X) Yes (LDL = ) 
- () No

5. Intensive statin therapy administered? (x) Yes - () No [if 
LDL >= 100, reason not given: intraparenchymal hemorrhage]
(intensive statin therapy = simvastatin 80mg, simvastatin 
80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, rosuvastatin 
20mg or 40mg, for LDL >= 100)

6. Smoking cessation counseling given? (X) Yes - () No [if no, 
reason: () non-smoker - () unable to participate]

7. Stroke education given (written form in the discharge 
worksheet)? (X) Yes - () No
(stroke education = personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup)

8. Assessment for rehabilitation or rehab services considered? 
(X) Yes - () No [if no, reason not assessed: ____ ]

9. Discharged on statin therapy? (x) Yes - () No [if LDL >= 100 
or on a statin prior to hospitalization, reason not discharged 
on statin: 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Lovastatin 10 mg oral daily 
5. Carvedilol 12.5 mg PO BID 
6. Amlodipine 5 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Carvedilol 12.5 mg PO BID 
3. LeVETiracetam 500 mg PO BID 
4. LOPERamide 2 mg PO TID:PRN diarrhea 
5. Miconazole Powder 2% 1 Appl TP TID:PRN rash 
6. OxycoDONE (Immediate Release)  2.5-5 mg PO Q4H:PRN pain 
7. Amlodipine 5 mg PO DAILY 
8. Hydrochlorothiazide 25 mg PO DAILY 
9. Docusate Sodium 100 mg PO BID:PRN Constipation 
Hold for loose stools or diarrhea 
10. Ipratropium-Albuterol Neb 1 NEB NEB Q4H PRN dyspnea, wheeze 
11. Acetaminophen 1000 mg PO Q8H 
12. Chloraseptic Throat Spray 1 SPRY PO Q4H:PRN sore throat 
13. Lidocaine 5% Patch 1 PTCH TD QPM R shoulder pain 
14. Heparin 5000 UNIT SC TID 
15. Lisinopril 40 mg PO DAILY 
16. Atorvastatin 10 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Adenocarcinoma of the lung with brain mets
MCA/R frontal stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___. You were admitted to 
the hospital and found to have had a stroke and lung cancer that 
had spread to your brain. You were also found to have a fluid 
collection in your lung, and you had a drain placed to help 
drain the fluid. You were given antibiotics to treat a lung 
infection. A feeding tube was placed in your stomach so that you 
can get nutrition, as you cannot swallow well enough after your 
stroke to take anything by mouth. You received radiation therapy 
to treat the cancer in your brain, which you will continue to 
receive while you are in rehab.

You are now ready to be discharged to a rehab facility. Please 
make sure to keep the follow up appointments as listed below. 

Please take your medication as prescribed and follow up at the 
medical appointments listed below.
 
Followup Instructions:
___